US06251936B1
4-(2,3-Dimethyl-9-phenylsulfanyl-naphtho[2,3-b]thiophen-4-yl)-phenol
To a stirred suspension of methanesulfonic acid 4-(9-iodo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester (0.620 g, 1.22 mmol), and copper I oxide (0.192 g, 1.34 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added thiophenol (0.270 mL, 2.68 mmol) and finely ground sodium hydroxide (0.107 g, 2.68 mmol) under a dry argon atmosphere. The vessel was sealed and heated at 155° C. for 9.5 hours. After stirring at ambient temperature for about 8 hours the reaction mixture was poured into water, acidified with hydrochloric acid and the organics were extracted into ether. The extracts were combined, filtered, washed with water and concentrated. The yellow solid residue was dissolved in dioxane (8 mL) and a 2.5 N soduim hydroxide solution (4.5 mL) was added. The vial was sealed and heated at 102° C. When the reaction was done (as indicated by thin layer chromatography) the mixture was cooled to room temperature, diluted with water, and acidified with hydrochloric acid. The organics were extracted with ether, combined with silica gel and the solvents were removed. The adsorbate was flash chromatographed (gradient 90/10-85/15 petroleum ether/ethyl acetate) and the solvents were chased with benzene and petroleum ether to give the title compound as a white solid (0.426 g, 85%): NMR (DMSO-d6); δ9.70 (s, 1H, OH), 8.40 (d, J=8 Hz, 1H), 7.56-7.51 (m, 2H), 7.44-7.40 (m, 1H), 7.25-7.12 (m, 5H), 7.02 (d, J=7 Hz, 2H), 6.93 (d, J=9 Hz, 2H), 3.67 (s, 3H), 1.62 (s, 3H); MS(EI): [M+] 412 (100%); Anal. calc. for C26H20OS2: C, 75.69; H, 4.89; N, 0.00. Found C, 74.98; H, 4.86; N, 0.13.

reactant | methanesulfonic acid 4-(9-iodo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 1.22 mmol, 0.620 g | IC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC=C(C=C2)OS(=O)(=O)C | C21H17IO3S2
reactant | thiophenol | 2.68 mmol, 0.270 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydroxide | 2.68 mmol, 0.107 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(2,3-Dimethyl-9-phenylsulfanyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 0.426 g, 85% | CC1=C(C2=C(S1)C(=C1C=CC=CC1=C2C2=CC=C(C=C2)O)SC2=CC=CC=C2)C | C26H20OS2
